US07217724B2
(1R)-2-(((1R)-1-Methyl-2-(7-(((1R)-1-methyl-2-morpholin-4-yl-2-oxo-ethyl)oxy)-1H-indol-3-yl)ethyl)amino)-1-pyridin-3-ylethanol
Further, to a solution of tert-butyl (1R)-1-methyl-2-(7-(((1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl)oxy)-1H-indol-3-yl)ethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)carbamate (190 mg, 0.285 mmol) in ethanol (2.0 mL) is added a 4N hydrochloric acid/dioxane (2.0 mL, 8.0 mmol), and the mixture is stirred at room temperature for 14 hours. To the reaction solution are added a saturated aqueous sodium hydrogen carbonate solution and a saturated brine, and the mixture is extracted with chloroform, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (a saturated ammonia solution in chloroform/methanol=100/1→100/4) to give the title compound (107 mg, yield: 83%).

reactant | tert-butyl (1R)-1-methyl-2-(7-(((1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl)oxy)-1H-indol-3-yl)ethyl((2R)-2-pyridin-3-yl-2-((triethylsilyl)oxy)ethyl)carbamate | 0.285 mmol, 190 mg | C[C@H](CC1=CNC2=C(C=CC=C12)O[C@@H](C(=O)N1CCOCC1)C)N(C(OC(C)(C)C)=O)C[C@H](O[Si](CC)(CC)CC)C=1C=NC=CC1 | C36H54N4O6Si
reactant | hydrochloric acid dioxane | 8.0 mmol, 4N, 2.0 mL | Cl.O1CCOCC1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | (1R)-2-(((1R)-1-Methyl-2-(7-(((1R)-1-methyl-2-morpholin-4-yl-2-oxo-ethyl)oxy)-1H-indol-3-yl)ethyl)amino)-1-pyridin-3-ylethanol | 107 mg, yield: 83% | C[C@H](CC1=CNC2=C(C=CC=C12)O[C@@H](C(=O)N1CCOCC1)C)NC[C@H](O)C=1C=NC=CC1 | C25H32N4O4
